US04847268
A mixture of 4.0 g (15.6 mmol) of 8-(4-hydroxyphenylthio)-5,6,7,8-tetrahydroquinoline in 40 ml of acetic anhydride was heated under reflux for 2 hours. A reagent was then removed under reduced pressure and the residue was subjected to flash chromatography (Kieselgel 60; 5% ethyl acetate in dichloromethane). The thick yellow oil thus obtained was treated with ethereal hydrogen chloride to yield 3.4 g (49%) of 8-(4-acetoxyphenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride.

reactant | 8-(4-hydroxyphenylthio)-5,6,7,8-tetrahydroquinoline | 15.6 mmol, 4.0 g | OC1=CC=C(C=C1)SC1CCCC=2C=CC=NC12 | C15H15NOS
reactant | hydrogen chloride | Cl | ClH
reactant | acetic anhydride | 40 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-(4-acetoxyphenylthio)-5,6,7,8-tetrahydroquinoline hydrochloride | 3.4 g, 49% | Cl.C(C)(=O)OC1=CC=C(C=C1)SC1CCCC=2C=CC=NC12 | InChI=1S/C17H17NO2S.ClH/c1-12(19)20-14-7-9-15(10-8-14)21-16-6-2-4-13-5-3-11-18-17(13)16;/h3,5,7-11,16H,2,4,6H2,1H3;1H
